US06136852
(S)-2-(tert-Butoxycarbonylamino)-7-hydroxytetralin (1.47 g) and 4-dimethylaminopyridine (1.36 g) were dissolved in dichloromethane (75 ml), and trifluoromethanesulfonic anhydride (1.03 ml) was added to the solution under ice-cooling with stirring, then the resulting mixture was stirred for 30 minutes. The reaction mixture was washed with 0.17 N hydrochloric acid and 0.5 M aqueous phosphate buffer solution (pH 7) sequentially, and dried over anhydrous magnesium sulfate, then the solvent was removed in vacuo. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/ethyl acetate=9/1) gave (S)-2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yl trifluoromethanesulfonate (1.82 g) as an oil.

reactant | (S)-2-(tert-Butoxycarbonylamino)-7-hydroxytetralin | 1.47 g | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)O | C15H21NO3
reactant | trifluoromethanesulfonic anhydride | 1.03 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
catalyst | 4-dimethylaminopyridine | 1.36 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | (S)-2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yl trifluoromethanesulfonate | 1.82 g | FC(S(=O)(=O)OC1=CC=C2CC[C@@H](CC2=C1)NC(=O)OC(C)(C)C)(F)F | C16H20F3NO5S
